US07723329B2
1-[5-(4-Chloro-butoxy)-2-nitro-phenylmethanesulfonyl]-naphthalene
A mixture of 1-(4-chloro-butoxy)-4-nitrobenzene (1.28 g, 5.6 mmoles) and 1-chloromethane-sulfonyl-naphthalene (1.6 g, 6.72 mmoles) was stirred in THF (50 ml) at −78° C., in a round bottom flask under nitrogen. A solution of 1M potassium t-butoxide was added dropwise (16.8 ml, 16.8 mmoles) over a half an hour period. Temperature was allowed to rise to −40° C., and the reaction mixture was stirred at this temperature for 5 hours. The reaction mixture was poured into cold 2N HCl, extracted with EtOAc, dried over Na2SO4, and concentrated under vacuum. Compound was recrystallized from CH2Cl2/hexane to afford the title compound as an off-white solid (1.94 g, 4.5 mmoles).

reactant | 1-(4-chloro-butoxy)-4-nitrobenzene | 5.6 mmoles, 1.28 g | ClCCCCOC1=CC=C(C=C1)[N+](=O)[O-] | C10H12ClNO3
reactant | 1-chloromethane-sulfonyl-naphthalene | 6.72 mmoles, 1.6 g | ClCS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C11H9ClO2S
reactant | potassium t-butoxide | 1M | CC(C)([O-])C.[K+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-[5-(4-Chloro-butoxy)-2-nitro-phenylmethanesulfonyl]-naphthalene | 4.5 mmoles, 1.94 g | ClCCCCOC=1C=CC(=C(C1)CS(=O)(=O)C1=CC=CC2=CC=CC=C12)[N+](=O)[O-] | C21H20ClNO5S
